US07538223B2
(2S,4R)-tert-butyl 4-hydroxy-2-(hydroxymethyl)pyrrolidine-1-carboxylate.
To a 0° C. suspension of LiBH4 (2.0 equiv) in THF (0.67 M) was slowly added TMSCl (4.0 equiv) by syringe. After stirring at room temperature for 30 minutes, (2S,4R)-1-(tert-butoxycarbonyl)-4-hydroxypyrrolidine-2-carboxylic acid (1.0 equiv) was then added, and the resulting mixture was stirred at room temperature overnight. The reaction was quenched by the careful addition of sat'd. aq. NaHCO3, and the mixture was diluted with EtOAc, and the organice layer was washed twice with sat'd. aq. NaHCO3, once with brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The title compound was isolated in 65% yield and used without further purification.

reactant | LiBH4 | 2.0 equiv | [Li+].[BH4-]
reactant | TMSCl | 4.0 equiv | C[Si](C)(C)Cl | C3H9ClSi
reactant | (2S,4R)-1-(tert-butoxycarbonyl)-4-hydroxypyrrolidine-2-carboxylic acid | 1.0 equiv | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O)C(=O)O | C10H17NO5
solvent | THF | 0.67 M | C1CCOC1 | C4H8O
product | (2S,4R)-tert-butyl 4-hydroxy-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 65% yield | O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C10H19NO4
